2170-05-19 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   This is an 80 yo male with metastatic melanoma who presented initially
   with bilateral DVTs who now presents with acute intracranial hemorrhage
   associated with metastases accompanied by hypoxic respiratory failure
   and tachycardia.
   24 Hour Events:
   -extubated
   -CMO
   -ativan started
   -scopolamine started
   -called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2170-5-18**] 07:15 AM
   Fentanyl - [**2170-5-18**] 07:15 AM
   Pantoprazole (Protonix) - [**2170-5-18**] 07:35 AM
   Morphine Sulfate - [**2170-5-19**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-19**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96.1
   HR: 94 (66 - 104) bpm
   BP: 129/71(85) {121/52(69) - 140/71(85)} mmHg
   RR: 16 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,464 mL
                                                                     69 mL
   PO:
             TF:
   IVF:
                                                                  1,464 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    130 mL
   Urine:
                                                                    495 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    769 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 421 (421 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), No(t)
   S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Non -purposeful, Sedated, Tone: Normal,
   no spontaneous movement in R extremities. Babinskis down bilaterally.
   Labs / Radiology
   144 K/uL
   10.7 g/dL
   197 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.8 mEq/L
   22 mg/dL
   105 mEq/L
   138 mEq/L
   32.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2170-5-18**]  03:44 AM
                             [**2170-5-18**]  04:47 AM
   WBC
   4.0
   Hct
   32.5
   Plt
   144
   Cr
   1.2
   TropT
   <0.01
   TCO2
   19
   Glucose
   197
   Other labs: PT / PTT / INR:13.9/22.4/1.2, CK / CKMB /
   Troponin-T:32/3/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is an 80 yo male with metastatic melanoma who presented initially
   with bilateral DVTs who now presents with acute intracranial hemorrhage
   associated with metastases accompanied by hypoxic respiratory failure
   and tachycardia.
   .
   #. Hypoxic Respiratory Failure:
   Acute onset with associated tachycardia, clear cxr, and known extensive
   DVTs is highly suspicious for PE even in the setting of known IVC
   filter. Clot may have formed on the filter or bypassed the filter. No
   signs of aspiration, no wheezes to indicate bronchoconstriction, no
   obvious murmurs or cause for intracardiac shunt. However, given ICH,
   will not be able to anticoagulate for now. A-a gradient 147. Less
   likely to be primary cardiac event as new ST depressions are likely
   rate related.
   -On PS 50% with good oxygenation now, ween as tolerated
   -Hold on CTA for now as would not change management
   -Trend CEZ, first set negative
   .
   #. Acute ICH: In the setting of metastatic melanoma and
   supratherapeutic anticoagulation. Now with altered mental status,
   aphasia, and right hemiparesis. Neurosurgery aware but holding off for
   intervention right now. Rhythmic movements may be rigors vs. seizures
   -Active reversal with protamine
   -Repeat head CT
   -Allow autoregulation of SBP, goal 140-160, will use labetolol drip if
   above 160
   -He is currently hyperventilating himself, likely decreasing ICP
   -Appreciate neurosurgery input
   -Keppra load and continue IV
   -Con't dexamethasone, change to IV
   .
   #. Fever: Clear CXR so less suspicion for aspiration or pneumonia.
   Could be from clot burden or possible central fever from head bleed.
   -U/A and urine culture
   -Blood cx
   -Sputum cx
   .
   #. Acute renal failure: Creatinine slightly elevated to 1.2 this am.
   Lactate slightly elevated. New AG acidosis maybe from lactate.
   -IVF for now
   -Recheck lactate later today
   .
   # Hypercholesterolemia: cont statin via OGT
   .
   # Glaucoma: latanoprost in place of travoprost while in house
   .
   # Benign prostatic hyperplasia: cont tamsulosin via OGT
   .
   #. FEN - NPO
   .
   #. Access - PIV, port
   .
   #. PPx -
   -DVT ppx with pneumoboot
   -Bowel regimen
   -Pain management with fentanyl
   -PPI
   .
   #. Code - Full Code, confirmed
   .
   #. Dispo - ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2170-5-18**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2170-05-19 11:05:00 Physician Attending Progress Note
Chief Complaint: metastaic melanoma with CNS bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CMO waiting for bed on floor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-5-19**] 03:30 AM
   Other medications:
   morphine, scopolamine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-19**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 69 (66 - 99) bpm
   BP: 134/69(84) {121/52(69) - 140/71(85)} mmHg
   RR: 11 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,464 mL
                                                                    107 mL
   PO:
             TF:
   IVF:
                                                                  1,464 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    240 mL
   Urine:
                                                                    495 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    769 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 421 (421 - 421) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, RUE paralyzed, LUE
   strength reduced
   Labs / Radiology
   10.7 g/dL
   144 K/uL
   197 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.8 mEq/L
   22 mg/dL
   105 mEq/L
   138 mEq/L
   32.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2170-5-18**]  03:44 AM
                             [**2170-5-18**]  04:47 AM
   WBC
   4.0
   Hct
   32.5
   Plt
   144
   Cr
   1.2
   TropT
   <0.01
   TCO2
   19
   Glucose
   197
   Other labs: PT / PTT / INR:13.9/22.4/1.2, CK / CKMB /
   Troponin-T:32/3/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   Assessment and Plan
   This is an 80 yo male with metastatic melanoma who presented initially
   with bilateral DVTs who now presents with acute intracranial hemorrhage
   associated with metastases accompanied by hypoxic respiratory failure
   and tachycardia. CMO at present
   .
   #. Hypoxic Respiratory Failure:
   Acute onset with associated tachycardia, clear cxr, and known extensive
   DVTs is highly suspicious for PE even in the setting of known IVC
   filter. Clot may have formed on the filter or bypassed the filter. No
   signs of aspiration, no wheezes to indicate bronchoconstriction, no
   obvious murmurs or cause for intracardiac shunt. However, given ICH,
   will not be able to anticoagulate for now. A-a gradient 147. Less
   likely to be primary cardiac event as new ST depressions are likely
   rate related.
   -On PS 50% with good oxygenation now, ween as tolerated
   -Hold on CTA for now as would not change management
   -
   #. Acute ICH: In the setting of metastatic melanoma and
   supratherapeutic anticoagulation. Now with altered mental status,
   aphasia, and right hemiparesis. Neurosurgery aware but holding off for
   intervention right now. Rhythmic movements may be rigors vs. seizures
   #. Fever: Clear CXR so less suspicion for aspiration or pneumonia.
   Could be from clot burden or possible central fever from head bleed.
   .
   #. Acute renal failure: Creatinine slightly elevated to 1.2 this am.
   Lactate slightly elevated. New AG acidosis maybe from lactate.
   # Hypercholesterolemia: cont statin via OGT
   .# Glaucoma: latanoprost in place of travoprost while in house
   .# Benign prostatic hyperplasia: cont tamsulosin via OGT
   .
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2170-5-18**] 03:42 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2170-05-20 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt taking sips
   -restarted glaucoma drops
   -family would prefer for pt to go to facility with hospice although
   there was some discussion of home with hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-5-19**] 05:00 PM
   Morphine Sulfate - [**2170-5-19**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-20**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 92 (67 - 121) bpm
   BP: 143/59(81) {114/59(75) - 143/69(84)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    240 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                      0 mL
   Urine:
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: rrr nl s1/s2
   Respiratory / Chest: CTA anteriorly
   Abdominal: Soft, Bowel sounds present
   Extremities: + LE edema
   Skin:  Warm
   Neurologic: responding to basic commands of squeezing with his left
   hand and wiggling his left toes.  Unable to squeeze with right hand
   today and wiggle right foot.
   Labs / Radiology
                             [**2170-5-18**]  03:44 AM
                             [**2170-5-18**]  04:47 AM
   WBC
   4.0
   Hct
   32.5
   Plt
   144
   Cr
   1.2
   TropT
   <0.01
   TCO2
   19
   Glucose
   197
   Other labs: PT / PTT / INR:13.9/22.4/1.2, CK / CKMB /
   Troponin-T:32/3/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is an 80 yo male with metastatic melanoma who presented initially
   with bilateral DVTs who now presents with acute intracranial hemorrhage
   associated with metastases accompanied by hypoxic respiratory failure
   and tachycardia.
   .
   #. Hypoxic Respiratory Failure:
   Acute onset with associated tachycardia, clear cxr, and known extensive
   DVTs is highly suspicious for PE even in the setting of known IVC
   filter. Clot may have formed on the filter or bypassed the filter. No
   signs of aspiration, no wheezes to indicate bronchoconstriction, no
   obvious murmurs or cause for intracardiac shunt. However, given ICH,
   will not be able to anticoagulate for now. Pt was successfully
   extubated on [**5-18**] and plan was made for pt to be DNR/DNI and [**Month/Year (2) 115**].  Pt
   currently satting well on room air.
   .
   #. Acute ICH: In the setting of metastatic melanoma and
   supratherapeutic anticoagulation. Pt then with altered mental status,
   aphasia, and right hemiparesis. Neurosurgery was aware and there is no
   intervention.  After extubation on [**5-18**] pt
s mental status improved.
   He is alert, oriented to self, and following basic commands.  Only
   moving left side of body this AM but was moving right hands and foot
   weakly yesterday.  Pt is [**Name (NI) 115**] and thus all BP meds, steroids, and
   antiseizure meds were discontinued.
   .
   # Glaucoma:
   -restarted glaucoma drops yesterday given concern that pt might not die
   immediately and concern  that he could become blind in the interterm.
   .
   #. Acute renal failure:
   -no longer following labs given pt [**Name (NI) 115**].
   .
   #[**Name (NI) 115**]:
   -discontinued meds for HL & BPH
   -family would like the pt to go to hospice facility although they were
   speaking of possibly sending him home with hospice
   spoke with case management and they are looking into oprions
   -allowing pt to take sips of water
   -continue morphine, ativan, and scopolamine.   Family prefers ativan
   over morphine. Acetaminophen prn fever for comfort
   .
   #. Access - port
   .
   #. Code - [**Name (NI) 115**]
   .
   #. Dispo
 Call out to floor today
   ICU Care
   Nutrition: sips of water
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2170-5-18**] 03:42 AM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: call out to floor today, then to hospice facility or less
   likely home with hospice

2170-05-20 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Uneventful 24 hrs
   Comfort focused care
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-5-20**] 07:56 AM
   Morphine Sulfate - [**2170-5-20**] 07:56 AM
   Other medications:
   eye drops, scopolamine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-20**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 79 (67 - 121) bpm
   BP: 116/64(77) {114/59(75) - 143/65(81)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    240 mL
                                                                    102 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                     30 mL
   Urine:
                                                                    490 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   144 K/uL
   197 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.8 mEq/L
   22 mg/dL
   105 mEq/L
   138 mEq/L
   32.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2170-5-18**]  03:44 AM
                             [**2170-5-18**]  04:47 AM
   WBC
   4.0
   Hct
   32.5
   Plt
   144
   Cr
   1.2
   TropT
   <0.01
   TCO2
   19
   Glucose
   197
   Other labs: PT / PTT / INR:13.9/22.4/1.2, CK / CKMB /
   Troponin-T:32/3/<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 COMFORT CARE ([**Year (4 digits) 115**], COMFORT MEASURES)
   This is an 80 yo male with metastatic melanoma who presented initially
   with bilateral DVTs who now presents with acute intracranial hemorrhage
   associated with metastases accompanied by hypoxic respiratory failure
   and tachycardia.
   #. Hypoxic Respiratory Failure:
   Acute onset with associated tachycardia, clear cxr, and known extensive
   DVTs is highly suspicious for PE even in the setting of known IVC
   filter. Clot may have formed on the filter or bypassed the filter. No
   signs of aspiration, no wheezes to indicate bronchoconstriction, no
   obvious murmurs or cause for intracardiac shunt. However, given ICH,
   will not be able to anticoagulate for now. Pt was successfully
   extubated on [**5-18**] and plan is for pt to be DNR/DNI and [**Month/Year (2) 115**].
   .
   #. Acute ICH: In the setting of metastatic melanoma and
   supratherapeutic anticoagulation. Pt then with altered mental status,
   aphasia, and right hemiparesis. Neurosurgery was aware and there is no
   intervention.  After extubation on [**5-18**] pt
s mental status improved.
   He is alert, oriented to self, and following basic commands.  Only
   moving left side of body this AM but was moving right hands and foot
   weakly yesterday.  Pt is [**Name (NI) 115**] and thus all BP meds, steroids, and
   antiseizure meds were discontinued.
   # Glaucoma:
   -restarted glaucoma drops yesterday given concern that pt might not die
   immediately and concern  that he could become blind in the interterm.
   #. Acute renal failure:
   -no longer following labs given pt [**Name (NI) 115**].
   #[**Name (NI) 115**]:
   -discontinued meds for HL & BPH
   -family would like the pt to go to hospice facility
   spoke with case management and they are looking into oprions
   -allowing pt to take sips of water
   -continue morphine, ativan, and scopolamine.   Family prefers ativan
   over morphine. Acetaminophen prn fever for comfort
   Looks very comfortable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2170-5-18**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill